US05747500
1-(2-butenyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione;
1-(2-pentenyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-cinnamyl-5-isopropyl-6-(3, 5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(methoxycarbonylallyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(2-butynyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione; 1-(3-phenyl-2-propynyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione;

reactant | 1-(2-pentenyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C=CCC)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C20H26N2O2S
reactant | 1-cinnamyl-5-isopropyl-6-(3, 5-dimethylphenylthio)-2,4-pyrimidinedione | C(C=CC1=CC=CC=C1)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C24H26N2O2S
reactant | 1-(methoxycarbonylallyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | COC(=O)C=CCN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C20H24N2O4S
reactant | 1-(2-butynyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C#CC)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C19H22N2O2S
reactant | 1-(3-phenyl-2-propynyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C1(=CC=CC=C1)C#CCN1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C24H24N2O2S
product | 1-(2-butenyl)-5-isopropyl-6-(3,5-dimethylphenylthio)-2,4-pyrimidinedione | C(C=CC)N1C(NC(C(=C1SC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C19H24N2O2S
